US08471005B2
[7-(3-Cyclopropylmethanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(1-methyl-1H-indazol-6-yl)-amine
Following the synthetic and purification procedures described in Example 1293d, 7-(3-cyclopropylmethanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (75 mg, 0.20 mmol) was coupled with 1-methyl-1H-indazol-6-ylamine (50.0 mg, 0.340 mmol) at 105° C. for 168 h to afford the titled compound. Yield of TFA salt: 11 mg (10%) of brown powder; LC/MS: 459 (M+H); HPLC: 97% pure, RT=3.29 min; 1H NMR: (DMSO, δ) 9.74 (s, 1H), 9.10 (s, 1H), 8.58 (d, J=7.7, 1H), 8.32 (s, 1H), 8.00 (s, 1H), 7.84 (d, J=7.9, 1H), 7.82 (s, 1H), 7.78 (t, J=7.9, 1H), 7.56 (d, J=8.7, 1H), 7.23 (d, J=8.7, 1H), 7.20 (d, J=4.9, 1H), 6.95 (d, J=4.9, 1H), 3.69 (s, 3H), 3.22 (d, J=7.3, 2H), 0.78 (m, 1H), 0.33 (m, 2H), −0.01 (m, 2H).

reactant | 7-(3-cyclopropylmethanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.20 mmol, 75 mg | C1(CC1)CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)SC | C17H17N3O2S2
reactant | 1-methyl-1H-indazol-6-ylamine | 0.340 mmol, 50.0 mg | CN1N=CC2=CC=C(C=C12)N | C8H9N3
product | [7-(3-Cyclopropylmethanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(1-methyl-1H-indazol-6-yl)-amine | C1(CC1)CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C1C=NN(C1=C2)C | C24H22N6O2S
